US07642220B2
26. Preparation of 6-Chloro-2-(4-chloro-2-fluoro-3-methoxyphenyl)-7-methyl-7H-purine
2-(4-Chloro-2-fluoro-3-methoxyphenyl)-6-methoxy-7-methyl-7H-purine (1.0 g, 3.1 mmol) was combined with 10 mL 6M HCl and heated at reflux for 2 h. After cooling, the mixture was diluted with 15 mL water and the pH was adjusted to 2 by addition of 2M aqueous sodium hydroxide. The precipitated material was collected by filtration, washed with water and dried under vacuum at 80° C. A 500 mg sample of the crude intermediate was slurried in chloroform (10 mL), treated with DMF (0.62 mL, 580 mg, 8.0 mmol) and then with thionyl chloride (0.58 mL, 950 mg, 8.0 mmol). The mixture was heated at reflux for 3 h, cooled and poured into 20 mL of ice-water. The pH was adjusted to 10 by addition of 1M sodium hydroxide. The precipitated product was taken up in ethyl acetate, washed twice with water, once with brine, dried and evaporated to give the title compound (500 mg, 49% yield over two steps): mp 184-186° C.: 1H NMR (DMSO-d6) δ 8.8 (s, 1H), 7.8 (dd, 1H), 7.46 (dd, 1H), 4.11 (s, 3H), 3.96 (s, 3H).

reactant | 2-(4-Chloro-2-fluoro-3-methoxyphenyl)-6-methoxy-7-methyl-7H-purine | 3.1 mmol, 1.0 g | ClC1=C(C(=C(C=C1)C1=NC(=C2N(C=NC2=N1)C)OC)F)OC | C14H12ClFN4O2
reactant | HCl | 6M, 10 mL | Cl | ClH
reactant | sodium hydroxide | 2M | [OH-].[Na+]
reactant | DMF | 8.0 mmol, 0.62 mL, 580 mg | CN(C)C=O | C3H7NO
reactant | thionyl chloride | 8.0 mmol, 0.58 mL, 950 mg | S(=O)(Cl)Cl | Cl2OS
reactant | sodium hydroxide | 1M | [OH-].[Na+]
solvent | water | 15 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-Chloro-2-(4-chloro-2-fluoro-3-methoxyphenyl)-7-methyl-7H-purine | 500 mg, 49% yield | ClC1=C2N(C=NC2=NC(=N1)C1=C(C(=C(C=C1)Cl)OC)F)C | C13H9Cl2FN4O
